US04460580
A mixture of 0,96 g of phenyl-ethylene oxide and 2.1 g of 4-(2-amino-propoxy)-salicylamide in 25 ml of 2-propanol is refluxed for 15 hours. The reaction mixture is then evaporated, the residue is partitioned between 10 ml of water and 100 ml of ethyl acetate and the organic phase is washed three times with water. On drying over magnesium sulfate and evaporating the organic phase, crude α-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-1-methyl-ethyl]-aminomethyl]-benzyl alcohol is obtained and this is recrystallised analogously to Example 2 and in this way gives the two enantiomer pairs with a melting point of 171°-173° and 149°-151° respectively.

reactant | phenyl-ethylene oxide | 0,96 g | C1(=CC=CC=C1)C1CO1 | C8H8O
reactant | 4-(2-amino-propoxy)-salicylamide | 2.1 g | NC(COC=1C=C(C(C(=O)N)=CC1)O)C | C10H14N2O3
solvent | 2-propanol | 25 ml | CC(C)O | C3H8O
product | α-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-1-methyl-ethyl]-aminomethyl]-benzyl alcohol | C(N)(=O)C1=C(C=C(OCC(C)NCC(C2=CC=CC=C2)O)C=C1)O | C18H22N2O4
